US07427635B2
Potassium bis(trimethylsilyl)amide (2.0 mL, 1.8 mmol, 0.91 M in tetrahydrofuran) was added to (S)-4-phenyl-3-((S)-3-phenyl-butyryl)-oxazolidin-2-one (500 mg, 1.6 mmol) in anhydrous tetrahydrofuran (8 mL) at −78° C. and stirred for 1 hour. In a separate flask, a solution of 2,4,6-triisopropylbenzenesulphonyl azide (625 mg, 2.0 mmol) in anhydrous tetrahydrofuran (10 mL) at −78° C. was added via cannula to the anion at −78° C. and stirring continued for 2 hours. Acetic acid (0.45 mL, 7.8 mmol) was added to the reaction at −78° C., the mixture warmed to room temperature and stirred overnight. The mixture was poured into water (30 mL) and extracted with ethyl acetate. The combined extracts were washed with brine and dried over sodium sulfate. The crude product was purified on silica gel with 2:1 dichloromethane/hexane to give (S)-3-((2S,3R)-2-azido-3-phenyl-butyryl)-4-phenyl-oxazolidin-2-one (230 mg, 41%).

reactant | Potassium bis(trimethylsilyl)amide | 1.8 mmol, 0.91 M, 2.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (S)-4-phenyl-3-((S)-3-phenyl-butyryl)-oxazolidin-2-one | 1.6 mmol, 500 mg | C1(=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C[C@H](C)C1=CC=CC=C1)=O | C19H19NO3
reactant | 2,4,6-triisopropylbenzenesulphonyl azide | 2.0 mmol, 625 mg | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N=[N+]=[N-] | C15H23N3O2S
reactant | Acetic acid | 7.8 mmol, 0.45 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | (S)-3-((2S,3R)-2-azido-3-phenyl-butyryl)-4-phenyl-oxazolidin-2-one | 230 mg, 41% | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O)[C@H](C)C1=CC=CC=C1 | C19H18N4O3
